US08440701B2
1-(2-Chloro-6-methyl-pyridine-4-carbonyl)-3-(3,4-difluoro-phenyl)-thiourea (D1)
Thiocyanic acid ammonium salt (10.6 g) was added to a mixture of 2-chloro-6-methyl-4-pyridinecarbonyl chloride (22.04 g; 116 mmol) and acetone (400 ml). The reaction mixture was stirred for 30 minutes and then 3,4-difluorobenzenamine (14.98 g; 116 mmol) was added slowly via an additional funnel. The resulting solution was stirred for 2 hours, quenched by water (100 ml) and then extracted by CH2Cl2 (3×100 ml). The combined organic phase was dried over MgSO4, filtered and the solvent was evaporated in vacuo. Yield: 38.1 g of intermediate D1.

reactant | Thiocyanic acid ammonium salt | 10.6 g | [NH4+].N#C[S-]
reactant | 2-chloro-6-methyl-4-pyridinecarbonyl chloride | 116 mmol, 22.04 g | ClC1=NC(=CC(=C1)C(=O)Cl)C | C7H5Cl2NO
reactant | 3,4-difluorobenzenamine | 116 mmol, 14.98 g | FC=1C=C(C=CC1F)N | C6H5F2N
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 1-(2-Chloro-6-methyl-pyridine-4-carbonyl)-3-(3,4-difluoro-phenyl)-thiourea | ClC1=NC(=CC(=C1)C(=O)NC(=S)NC1=CC(=C(C=C1)F)F)C | C14H10ClF2N3OS
